US03954793
Compounds III-A, III-B and III-D were prepared by a modification of the procedure of Zaugg, Swett and Stone (5). In a stirred solution of sodium ethylate prepared from 0.23 g (0.01 mol) of sodium metal and 50 ml of absolute ethanol was dissolved 0.01 mole of the appropriate nitro- or chloroindazole. To such solution was added 2.38 g (0.02 mol) of propynyl bromide, and the reaction mixture was stirred for twenty-four hours at room temperature during which time sodium bromide precipitated. The reaction mixture was poured into 100 ml of water and the oily layer was extracted with ether. The ether layer was separated, washed with water, 10% potassium hydroxide solution, saturated sodium chloride solution, dried (Na2SO4) and concentrated in vacuo. The residue was recrystallized from 95% ethanol to give the desired N-(2-propynyl) indazoles. To prepare compound III-C, a mixture of 10 g (0.043 mol) of 3-chloro-6-nitroindazole, 6.9 g (0.043 mol) of anhydrous potassium carbonate and 0.10 g (0.086 mol) of propynyl bromide was placed in 100 ml of acetone. The reaction mixture was refluxed for twenty-four hours, and then poured into 100 ml of water. The oily layer was extracted with ether, and the ether layer was separated, washed with water, 10% sodium hydroxide solution, saturated sodium chloride solution, dried (Na2SO4) and concentrated in vacuo. The residue was recrystallized from 95% ethanol to give N-(2-propynyl)-3-chloro-6-nitroindazole.

reactant | 3-chloro-6-nitroindazole | 0.043 mol, 10 g | ClC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C7H4ClN3O2
reactant | potassium carbonate | 0.043 mol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | propynyl bromide | 0.086 mol, 0.10 g | C(#CC)Br | C3H3Br
reactant | water | 100 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-(2-propynyl)-3-chloro-6-nitroindazole | C(C#C)N1N=C(C2=CC=C(C=C12)[N+](=O)[O-])Cl | C10H6ClN3O2
